US08669234B2
(1-{3-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester:
To a solution of 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1.0 g, 2.4 mmol) in methanol (20 mL) was added 4.0 M solution of HCl in dioxane (4.0 mL, excess). The mixture was stirred for 3 hours at 50° C. and concentrated under reduced pressure. The residue was treated with ether to remove excess HCl. The obtained white solid was dissolved in DMF (20 mL). To the solution was added 2-methoxycarbonylamino-3-methyl-butyric acid (0.46 g, 2.6 mmol), HATU (1.0 g, 2.6 mmol) and N,N-diisopropylethylamine (2.5 mL, 14.4 mmol). The mixture was stirred at ambient for 2 hours, and then the volatile component was removed in vacuo. The residue was dissolved in ethyl acetate (200 mL), washed with 1 N NaOH solution, water and brine, dried over MgSO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product as a white solid (1.0 g, 89%). m/z 475.1, 477.1 (M+H)+.

reactant | 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 2.4 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)C2 | C20H24BrN3O2
reactant | HCl | Cl | ClH
reactant | 2-methoxycarbonylamino-3-methyl-butyric acid | 2.6 mmol, 0.46 g | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 2.6 mmol, 1.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 14.4 mmol, 2.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 20 mL | CO | CH4O
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | (1-{3-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 1.0 g, 89% | COC(NC(C(C)C)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)C2)=O | C22H27BrN4O3
